US06653347B2
To a solution of N-(4-cyano-2-methoxyphenyl)-sulfamoyl chloride (1 mmol) in DMF (1 mL) is added 2-bromoaniline (1 mmol). Upon completion of the reaction, an aqueous work up is performed. The crude material will be purified by either recrystalization or chromatography to give N-(4-Cyano-2-methoxyphenyl)-N′-(2-bromophenyl) sulfamide.

reactant | N-(4-cyano-2-methoxyphenyl)-sulfamoyl chloride | 1 mmol | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)Cl)OC | C8H7ClN2O3S
reactant | 2-bromoaniline | 1 mmol | BrC1=C(N)C=CC=C1 | C6H6BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-Cyano-2-methoxyphenyl)-N′-(2-bromophenyl) sulfamide | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)NC1=C(C=CC=C1)Br)OC | C14H12BrN3O3S
